US07465731B2
To a solution of 2-chloro-5-iodopyridine (37.7 g) in DMF (300 mL) was added palladium(II) acetate (1.77 g), tri-o-tolylphosphine (7.19 g), diisopropylethylamine (82 mL), and ethyl acrylate (17.9 mL), and the mixture was heated at 100° C. for 10 hours. Resulting mixture was poured into water and extracted with AcOEt. The organic layer was washed with water and brine and dried over Na2SO4, and the solvent was removed in vacuo. Obtained brown solid was suspended in a mixture of hexane and AcOEt (4:1), and the precipitate was filtered off. The filtrate was concentrated in vacuo, and residual brown oil was purified by silica gel column chromatography eluted with AcOEt and hexane (1:4-1:2). Resulting solid was triturated with IPE to give ethyl (2E)-3-(6-chloro-3-pyridyl)acrylate as pale yellow powder (20.58 g).

reactant | 2-chloro-5-iodopyridine | 37.7 g | ClC1=NC=C(C=C1)I | C5H3ClIN
reactant | tri-o-tolylphosphine | 7.19 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | diisopropylethylamine | 82 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl acrylate | 17.9 mL | C(C=C)(=O)OCC | C5H8O2
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | AcOEt | CCOC(=O)C | C4H8O2
catalyst | palladium(II) acetate | 1.77 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | ethyl (2E)-3-(6-chloro-3-pyridyl)acrylate | 20.58 g | ClC1=CC=C(C=N1)/C=C/C(=O)OCC | C10H10ClNO2
